US07371772B2
To a solution of 8-[4-(2-butoxyethoxy)phenyl]-1-isobutyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylic acid (200 mg) in tetrahydrofuran (10 ml) was added a drop of DMF. Then, after adding thionyl chloride (0.042 ml), the mixture was stirred under nitrogen atmosphere for 1 hour. After the solvent and excessive thionyl chloride were distilled off under reduced pressure, the mixture was dissolved in tetrahydrofuran (15 ml). The solution was added dropwise to a solution of 4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]anilin (127 mg) and triethylamine (1.6 ml) in tetrahydrofuran (10 ml) at 0° C. under nitrogen atmosphere. After stirring the mixture at room temperature under nitrogen atmosphere overnight, water was added and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried with magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by basic silica gel column chromatography (methanol:ethyl acetate=1:8) to give 8-(4-(2-butoxyethoxy)phenyl)-1-isobutyl-N-(4-((methyl(tetrahydro-2H-pyran-4-yl)amino)methyl)phenyl)-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxamide (257 mg) as a yellow amorphous material (Compound 42).

reactant | 8-[4-(2-butoxyethoxy)phenyl]-1-isobutyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylic acid | 200 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCCN2CC(C)C)C(=O)O)C1 | C28H37NO4
reactant | DMF | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 0.042 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 8-(4-(2-butoxyethoxy)phenyl)-1-isobutyl-N-(4-((methyl(tetrahydro-2H-pyran-4-yl)amino)methyl)phenyl)-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxamide | 257 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCCN2CC(C)C)C(=O)NC2=CC=C(C=C2)CN(C2CCOCC2)C)C1 | C41H55N3O4
